US09056859B2
Step B: 4-methyl-5-[1-(methyloxy)-2-piperazin-1-ylethyl]-2-benzofuran-1(3H)-one hydrochloride
1,1-Dimethylethyl-4-[2-(4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)-2-(methyloxy) ethyl]-piperazine-1-carboxylate was treated with 4M HCl in dioxane (4 mL) and stirred at room temperature for 1 h. The reaction mixture was concentrated to dryness. Analysis by LC indicated complete removal of the Bac group and formation of compound 4-methyl-5-[1-(methyloxy)-2-piperazin-1-ylethyl]-2-benzofuran-1(3H)-one hydrochloride. 1H-NMR (DMSO, 500 MHz), δ 7.747 (d, J=7.5 Hz, 1H), 7.577 (d, J=7.5 Hz, 1H), 5.402-5.388 (m, 2H), 5.113 (d, J=9 Hz, 1H), 3.850 (s, 3H), 3.496-3.327 (m, 8H), 3.228-3.140 (m, 3H), 2.500 (s, 3H).

reactant | 1,1-Dimethylethyl-4-[2-(4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)-2-(methyloxy) ethyl]-piperazine-1-carboxylate | CC(C)(C)C1N(CCN(C1)CC(OC)C1=C(C2=C(C(OC2)=O)C=C1)C)C(=O)[O-]
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 4-methyl-5-[1-(methyloxy)-2-piperazin-1-ylethyl]-2-benzofuran-1(3H)-one hydrochloride | Cl.CC1=C(C=CC=2C(OCC21)=O)C(CN2CCNCC2)OC | InChI=1S/C16H22N2O3.ClH/c1-11-12(3-4-13-14(11)10-21-16(13)19)15(20-2)9-18-7-5-17-6-8-18;/h3-4,15,17H,5-10H2,1-2H3;1H
